US07968746B2
A solution of 319 mg of (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(piperidin-1-yl)methanone (1.02 mmol) in 5 mL MTBE which was treated with 1.077 g FeCl3.6H2O in 6 mL H2O. The reaction mixture rapidly turned black which faded to a yellow color over the course of the reaction. An additional 2 mL MTBE was added and stirred vigorously for 3 h at room temp. The reaction was quenched with 10 mL H2O and 10 mL MTBE, the layers separated and the organics washed with H2O until colorless. The combined aqueous phases were extracted 2×10 mL MTBE and the combined organics washed with saturated NaCl and dried over Na2SO4. Flash chromatography yielded 335 mg of 2-(3-hydroxy-3-methyl-4-oxo-4-(piperidin-1-yl)butyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione as a dark yellow oil.

reactant | (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(piperidin-1-yl)methanone | 1.02 mmol, 319 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)N1CCCCC1)C | C19H27NO3
reactant | MTBE | 5 mL | CC(C)(C)OC | C5H12O
reactant | MTBE | 2 mL | CC(C)(C)OC | C5H12O
solvent | H2O | 6 mL | O | H2O
product | 2-(3-hydroxy-3-methyl-4-oxo-4-(piperidin-1-yl)butyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione | 335 mg | OC(CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C(N1CCCCC1)=O)C | C19H27NO4
